2149-08-06 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   radiology confirms large bleed, could have torn intercostal, "tons of
   varices", could be draining small amt into pelvis? awaiting final read
   -gen [**Doctor First Name **] consulted, rec: transplant [**Doctor First Name **] eval, for now serial HCTs,
   notify IR if not bumping appropr
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical records
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: wants to eat
   Flowsheet Data as of  [**2149-8-6**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 77 (75 - 89) bpm
   BP: 119/57(72) {103/46(61) - 130/62(78)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     60 mL
                                                                    960 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
   910 mL
   Total out:
                                                                    260 mL
                                                                    920 mL
   Urine:
                                                                    260 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Vitals: T 98.2, BP 130/62, HR 86, RR 24 sat 99% on RA
   General: Alert, oriented, no acute distress
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   chest: R.side of chest with large hematoma from scapula to flank and
   down to sacrum. R.scapula area with swelling.
   CV: Regular rate and rhythm, normal S1 + S2,3/6 systolic flow murmur.
   Abdomen:  soft, non-tender, +bs, softly distended, +hepatomegaly. No
   guarding or rebound.
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, 2+edema of the R.leg. 1+of left
   leg.
   neuro :AAox3, CN2-12 intact, mild asterixis.
   Labs / Radiology
   80 K/uL
   7.6 g/dL
   119 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   22.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-5**]  08:51 PM
                             [**2149-8-6**]  04:22 AM
   WBC
   6.9
   5.1
   Hct
   23.7
   22.5
   Plt
   101
   80
   Cr
   2.1
   1.8
   Glucose
   121
   119
   Other labs: PT / PTT / INR:20.0/78.4/1.8, ALT / AST:22/53, Alk Phos / T
   Bili:65/18.3, Differential-Neuts:66.2 %, Lymph:19.9 %, Mono:12.2 %,
   Eos:1.5 %, Fibrinogen:162 mg/dL, Albumin:3.4 g/dL, LDH:344 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematoma
 ANEMIA, OTHER
   .
   Pt is a 62 y.o male with h.o ESLD [**2-10**] ETOH cirrhosis, anemia, ARF who
   presented to [**Hospital1 632**] with HCT drop now transferred for further care.
   .
   #anemia-cause of anemia likely secondary to hematoma/trauma. Other
   etiologies include GIB from varices, ulcer, diverticulosis, portal
   gastropathy etc. In addition, pt could have anemia secondary to chronic
   disease. Pt has been given 13units PRBCs and 5 units of FFP at [**Hospital1 632**]
   prior to transfer.
   -consider repeat imaging
   -guaiac all stools.
   -Q6hr HCts and Q8hr coags
   -IV PPI
   -hemolysis labs, retic count, iron studies
   -active T+S
   -access with 2 PIVs
   -IR consult for potential intervention.
   .
   #r.chest/axillary hematoma-Reportedly CT scan showing large SQ/IM
   hematoma.
   -will obtain CXR to eval for evidence of rib fx, PTX, or effusion.
   -Trend HCT
   -repeat chest CT-showing evidence of continued bleeding, likely from
   intercostal vascular tear with evidence of bleeding into pelvis.
   -IR consult
   -pain control
   -transfuse prn.
   .
   #fall-appears to be mechanical in nature. Monitor on tele for now. Can
   consider echo.
   -PT consult.
   .
   #ESLD likely [**2-10**] ETOH cirrhosis. Apparently, pt with complete w/u at
   [**Hospital1 966**]. ESLD has been  c/b +ascites  ?encephalopathy, ?varices
   -hepatology consult if pt decides to establish care at [**Hospital1 1**].
   -diuresis once HCT stabilizes.
   -lactulose
   .
   #ARF-Pt presented with Cr 3.7, currently 2.9. Unclear of baseline.
   Likely [**2-10**] hypovolemia in the setting of bleed but other considerations
   include HRS.
   -ulytes
   -trend Cr
   -u/a and cx
   -avoid nephrotoxins.
   .
   #anasarca-likely secondary to extensive resuscitation with PRBCs and
   fluid. Also, likely that pt has hypoalbuminemia.
   -will continue to monitor, diuresis once HD stability ensured.
   .
   #HTN-will hold off on home meds in setting of recent bleed.
   .
   FEN:NPO, 2, 18's, ?CVL
   .
   Prophylaxis: pneumoboots, PPI
   .
   Access: peripherals, 2 18's.
   .
   Code:  Full (discussed with patient), reports HCP is his sister.
   .
   Communication: Patient
   .
   Disposition: ICU pending HCT stability.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-5**] 08:59 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU pending HCT stability

2149-08-06 09:10:00 Physician Attending Progress Note
Chief Complaint: GI bleed/acute blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Alcoholic cirrhosis with pancytopenia
   Brusing/hematoma s/p fall yesterday- Hct 13 upon presentation to OSH
   Transferred 13 units blood with inappropriately low bump  in Hct
   24 Hour Events:
   Transferred to [**Hospital1 1**] MICU yesterday
   CT Torso
   2units blood, 1 unit ffp overnight
   Surgery eval: serial hct's
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-6**] 08:01 AM
   Other medications:
   MVI, folic acid, thiamine, colace, protonix IV q 12, lactulose TID
   Changes to medical and family history:
   Hepatitis w/u (review of [**Hospital1 987**] records): steatohepatitis by [**2146**]
   biopsy, negative alpha 1 AT, [**Location (un) 1729**], Hep A-c, HIV, SPEP/[**Last Name (LF) 1197**], [**First Name3 (LF) **], PBC
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-6**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 86 (75 - 89) bpm
   BP: 115/60(74) {98/46(60) - 130/67(78)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                     60 mL
                                                                  1,070 mL
   PO:
                                                                     50 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   910 mL
   Total out:
                                                                    260 mL
                                                                  1,160 mL
   Urine:
                                                                    260 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, icteric sclerae
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Wheezes : , Diminished: right side, No(t) Rhonchorous: ),
   large hematoma with ecchymoses extending over the entire right
   posterior lung field
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Obese, ascites
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   R>L edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   80 K/uL
   119 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   22.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-5**]  08:51 PM
                             [**2149-8-6**]  04:22 AM
   WBC
   6.9
   5.1
   Hct
   23.7
   22.5
   Plt
   101
   80
   Cr
   2.1
   1.8
   Glucose
   121
   119
   Other labs: PT / PTT / INR:20.0/78.4/1.8, ALT / AST:22/53, Alk Phos / T
   Bili:65/18.3, Differential-Neuts:66.2 %, Lymph:19.9 %, Mono:12.2 %,
   Eos:1.5 %, Fibrinogen:162 mg/dL, Albumin:3.4 g/dL, LDH:344 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: haptoglobin <20
   Imaging: CT: large hematoma with heterogeneity, tracks into pelvis no
   rib fractures, blushing from intercostals; right pleural effusion
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematoma
 ANEMIA, OTHER
   62 yr old man with liver disease tx from OSH with hematoma, acute blood
   loss anemia and ARF
   1.       Profound Anemia:
   Most likely due to hematoma/blood loss
   [**Month (only) 11**] have component of ACD with his history of pancytopenia
   now s/p 15 units blood tx over the past 6 days, but hct not up
   appropriately raising concern for ongoing active bleeding
   Surgery following: serial abdominal exams and hct's
   IR intervention if he continues to bleed
   No rib fracture/PTX by CT torso
   2.     Fall: appears mechanical
   3.       Cirrhosis: attributed to EtOH as per OSH work up.
   Continue lactulose
   Given ongoing bleed, will not institute diuretics
   4. ARF: Cr peaked at 3, now improving.
   Suspect pre-renal/ATN due to blood loss and diuretics
   Urine 'lytes pending for further eval
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-5**] 08:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2149-08-07 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hct did not initially rise appropriately after 3 u PRBCs
   - also received FFP and cyroprecipitate in AM
   - continued to have inappropriate response and received 2 u PRBCs in
   the afternoon
   - received mucomyst and NaHCO3 prior to his CT
   - CT with contrast showed:
   1. Large right chest wall and flank hematoma, unchanged from 18 hours
   prior.  No evidence of active IV contrast extravasation.
   2. Unchanged bilateral pleural effusions, right greater than left with
   atelectasis.
   3. Ascites, intermediate density, unchanged.
   4. Hypoattenuating lesions in the liver, too small to characterize. No
   findings of hepatic laceration.
   5. Cirrhosis with stigmata of portal hypertension.
   6. Possible right posterior tenth rib fracture.
   - after being moved on the table at CT, starting having some shoulder
   pain, added PRN oxycodone
   - received total of 5 u yesterday (and getting one this am) and 3 u
   FFP; total PRBCs is 29 units if added to OSH transfusions
   - surgery recommends hepatology consult
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-6**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-7**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 80 (76 - 94) bpm
   BP: 121/57(71) {104/52(68) - 148/69(86)} mmHg
   RR: 25 (8 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,726 mL
                                                                    576 mL
   PO:
                                                                    450 mL
                  TF:
   IVF:
                                                                  1,020 mL
   Blood products:
                                                                  2,256 mL
                                                                    576 mL
   Total out:
                                                                  2,760 mL
                                                                    760 mL
   Urine:
                                                                  2,760 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   chest: R.side of chest with large hematoma from scapula to flank and
   down to sacrum. R.scapula area with swelling.
   CV: Regular rate and rhythm, normal S1 + S2,3/6 systolic flow murmur.
   Abdomen:  soft, non-tender, +bs, softly distended, +hepatomegaly. No
   guarding or rebound.
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, 2+edema of the R.leg. 1+of left
   leg.
   neuro :AAox3, CN2-12 intact, mild asterixis.
   Labs / Radiology
   90 K/uL
   9.3 g/dL
   108 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   33 mg/dL
   101 mEq/L
   138 mEq/L
   26.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2149-8-5**]  08:51 PM
                             [**2149-8-6**]  04:22 AM
                             [**2149-8-6**]  08:11 AM
                             [**2149-8-6**]  02:23 PM
                             [**2149-8-6**]  06:41 PM
                             [**2149-8-6**]  10:38 PM
                             [**2149-8-7**]  04:53 AM
   WBC
   6.9
   5.1
   6.3
   7.6
   7.6
   7.2
   Hct
   23.7
   22.5
   25.1
   25.9
   28.8
   29.8
   26.3
   Plt
   101
   80
   84
   99
   91
   90
   Cr
   2.1
   1.8
   1.4
   Glucose
   121
   119
   108
   Other labs: PT / PTT / INR:18.0/76.9/1.6, ALT / AST:20/43, Alk Phos / T
   Bili:61/22.0, Differential-Neuts:66.2 %, Lymph:19.9 %, Mono:12.2 %,
   Eos:1.5 %, Fibrinogen:225 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.1
   g/dL, LDH:301 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Pt is a 62 y.o male with h.o ESLD [**2-10**] ETOH cirrhosis, anemia, ARF who
   presented to [**Hospital1 632**] with HCT drop now transferred for further care.
   .
   #anemia-cause of anemia likely secondary to hematoma/trauma. Other
   etiologies include GIB from varices, ulcer, diverticulosis, portal
   gastropathy etc. In addition, pt could have anemia secondary to chronic
   disease. Pt has been given 13units PRBCs and 5 units of FFP at [**Hospital1 632**]
   prior to transfer.
   -consider repeat imaging
   -guaiac all stools.
   -Q6hr HCts and Q8hr coags
   -IV PPI
   -hemolysis labs, retic count, iron studies
   -active T+S
   -access with 2 PIVs
   -IR consult for potential intervention.
   .
   #r.chest/axillary hematoma-Reportedly CT scan showing large SQ/IM
   hematoma.
   -will obtain CXR to eval for evidence of rib fx, PTX, or effusion.
   -Trend HCT
   -repeat chest CT-showing evidence of continued bleeding, likely from
   intercostal vascular tear with evidence of bleeding into pelvis.
   -IR consult
   -pain control
   -transfuse prn.
   .
   #fall-appears to be mechanical in nature. Monitor on tele for now. Can
   consider echo.
   -PT consult.
   .
   #ESLD likely [**2-10**] ETOH cirrhosis. Apparently, pt with complete w/u at
   [**Hospital1 966**]. ESLD has been  c/b +ascites  ?encephalopathy, ?varices
   -hepatology consult if pt decides to establish care at [**Hospital1 1**].
   -diuresis once HCT stabilizes.
   -lactulose
   .
   #ARF-Pt presented with Cr 3.7, currently 2.9. Unclear of baseline.
   Likely [**2-10**] hypovolemia in the setting of bleed but other considerations
   include HRS.
   -ulytes
   -trend Cr
   -u/a and cx
   -avoid nephrotoxins.
   .
   #anasarca-likely secondary to extensive resuscitation with PRBCs and
   fluid. Also, likely that pt has hypoalbuminemia.
   -will continue to monitor, diuresis once HD stability ensured.
   .
   #HTN-will hold off on home meds in setting of recent bleed.
   .
   FEN:NPO, 2, 18's, ?CVL
   .
   Prophylaxis: pneumoboots, PPI
   Access: peripherals, 2 18's.
   Code:  Full (discussed with patient), reports HCP is his sister.
   Communication: [**Name2 (NI) **]
   Disposition: ICU pending HCT stability.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-6**] 04:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-08-07 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yr old man with liver disease tx from OSH with hematoma, acute blood
   loss anemia and ARF
   24 Hour Events:
   6 more u prbc, 1u cryoprecipitate, 4u ffp transfused since admit. went
   for CTA torso.
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-6**] 07:57 PM
   Other medications:
   MVI, vit K 5 qd, folate, thiamine, ducolax, Protonix, Lactulose,
   mucomyst, oxycodone prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-7**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 81 (76 - 94) bpm
   BP: 128/60(75) {109/52(67) - 148/69(86)} mmHg
   RR: 27 (8 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,726 mL
                                                                  1,236 mL
   PO:
                                                                    450 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,020 mL
   Blood products:
                                                                  2,256 mL
                                                                    916 mL
   Total out:
                                                                  2,760 mL
                                                                  1,010 mL
   Urine:
                                                                  2,760 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : L side, Diminished: R
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Large R sided chest wall and flank hematoma stable
   Skin:  Not assessed, scattered R sided ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   90 K/uL
   108 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   33 mg/dL
   101 mEq/L
   138 mEq/L
   26.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2149-8-5**]  08:51 PM
                             [**2149-8-6**]  04:22 AM
                             [**2149-8-6**]  08:11 AM
                             [**2149-8-6**]  02:23 PM
                             [**2149-8-6**]  06:41 PM
                             [**2149-8-6**]  10:38 PM
                             [**2149-8-7**]  04:53 AM
   WBC
   6.9
   5.1
   6.3
   7.6
   7.6
   7.2
   Hct
   23.7
   22.5
   25.1
   25.9
   28.8
   29.8
   26.3
   Plt
   101
   80
   84
   99
   91
   90
   Cr
   2.1
   1.8
   1.4
   Glucose
   121
   119
   108
   Other labs: PT / PTT / INR:18.0/76.9/1.6, ALT / AST:20/43, Alk Phos / T
   Bili:61/22.0, Differential-Neuts:66.2 %, Lymph:19.9 %, Mono:12.2 %,
   Eos:1.5 %, Fibrinogen:225 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.1
   g/dL, LDH:301 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CTA torso ([**8-6**])- no active bleeding noted. Large flank and
   chest wall hematoma noted, unchanged in size; pelvic blood noted,
   possible hemothorax (equivocal density), no liver laceration noted
   Microbiology: [**8-6**] Blood and urine- pending
   Assessment and Plan
   62 yr old man with liver disease tx from OSH with hematoma, acute blood
   loss anemia and ARF
   1. Profound Anemia due to acute blood loss- due to trauma and
   underlying coagulopathy from liver dz
   -[**Month (only) 11**] have component of ACD with his history of pancytopenia
   -now s/p 21 units blood tx over the past week, but hct not up
   appropriately raising concern for ongoing active bleeding with no clear
   source on CTA torso
   -[**Doctor First Name 3**] and IR following
   2. EtOH cirrhosis- OSH work up done [**1-17**]
   -continue lactulose
   -holding further tx in the setting of acute bleed
   3. ARF: Cr peaked at 3, now improving w/ blood resuscitation. S/p dye
   load yest so will cont to monitor.
   -hold diuresis, minimize nephrotoxins
   -trend creat
   Remainder of note as per housestaff note
   ICU Care
   Nutrition:
   Comments: tolerating po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2149-8-6**] 04:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt and was present with the ICU housestaff for
   the relevant portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 6181**]
s note, and would add: 62 yo male with alcoholic cirrhosis
   transferred with chest wall hematoma and continued bleeding in the
   context of mechanical trauma and coagulopathy. Over the past day, he
   has continued to have acute blood loss anemia, with an inappropriately
   low rise in his hematocrit following transfusion of 6 units blood.
   Acute renal failure is slightly better, but he remains at risk for
   further worsening due to contrast dye load received yesterday. CT torso
   without obvious active source. Given ongoing bleed, will obtain tagged
   scan to try to delineate source. Continue to trend hct
s and transfuse
   as needed, with reversal of coagulopathy as able. Hemodynamics have
   been reasonable not requiring pressor support.
   Pt is critically ill. Total time spent: 35 minutees.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2149-8-7**] 15:43 ------

2149-08-08 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2149-8-7**] 02:30 PM
   for Red Tag study
   .
   - 1 unit of blood transfused at 6AM
   - Hct 26.3 --> 1 unit PRBCs --> 29.7 --> 26.9 --> 1 unit PRBC & IR
   procedure which likely resulted in small amount of blood loss -->
   25.8 --> 1 unit PRBCs --> 31.2
   - CTA failed to localize site of bleeding
   - Tagged RBC scan localized the bleeding to center of large hematoma on
   the left chest wall near T9/T10.  Will proceed to angio tonight.
   Getting PRBCs, FFP, bicarb fluids prior to bleeding scan.
   - IR procedure:  They performed selective arteriogram of the
   intercostal arteries for ribs 7 - 10.  The site of bleeding was found
   at the intercostal artery for rib 9. They felt they were able to
   successfully embolize the artery.
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-8**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 89 (77 - 97) bpm
   BP: 130/64(79) {113/54(67) - 156/75(94)} mmHg
   RR: 39 (20 - 48) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,862 mL
                                                                    300 mL
   PO:
                                                                    440 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,000 mL
   Blood products:
                                                                  2,422 mL
   Total out:
                                                                  2,000 mL
                                                                    800 mL
   Urine:
                                                                  2,000 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,862 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   chest: R.side of chest with large hematoma from scapula to flank and
   down to sacrum. R.scapula area with swelling.
   CV: Regular rate and rhythm, normal S1 + S2,3/6 systolic flow murmur.
   Abdomen:  soft, non-tender, +bs, softly distended, +hepatomegaly. No
   guarding or rebound.
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, 2+edema of the R.leg. 1+of left
   leg.
   neuro :AAox3, CN2-12 intact, mild asterixis.
   Labs / Radiology
   95 K/uL
   11.3 g/dL
   121 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.5 mEq/L
   25 mg/dL
   99 mEq/L
   136 mEq/L
   31.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-8-6**]  04:22 AM
                             [**2149-8-6**]  08:11 AM
                             [**2149-8-6**]  02:23 PM
                             [**2149-8-6**]  06:41 PM
                             [**2149-8-6**]  10:38 PM
                             [**2149-8-7**]  04:53 AM
                             [**2149-8-7**]  10:01 AM
                             [**2149-8-7**]  05:21 PM
                             [**2149-8-7**]  07:35 PM
                             [**2149-8-8**]  01:50 AM
   WBC
   5.1
   6.3
   7.6
   7.6
   7.2
   8.2
   8.2
   Hct
   22.5
   25.1
   25.9
   28.8
   29.8
   26.3
   29.7
   26.9
   25.8
   31.2
   Plt
   80
   84
   99
   91
   90
   84
   95
   Cr
   1.8
   1.4
   0.6
   0.6
   Glucose
   119
   108
   93
   121
   Other labs: PT / PTT / INR:19.5/76.9/1.8, ALT / AST:20/43, Alk Phos / T
   Bili:61/22.0, Differential-Neuts:71.0 %, Band:1.0 %, Lymph:12.0 %,
   Mono:11.0 %, Eos:3.0 %, Fibrinogen:183 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.1 g/dL, LDH:301 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematoma
 ANEMIA, OTHER
   .
   Pt is a 62 y.o male with h.o ESLD [**2-10**] ETOH cirrhosis, anemia, ARF who
   presented to [**Hospital1 632**] with HCT drop now transferred for further care.
   .
   #anemia-cause of anemia likely secondary to hematoma/trauma. Other
   etiologies include GIB from varices, ulcer, diverticulosis, portal
   gastropathy etc. In addition, pt could have anemia secondary to chronic
   disease. Pt has been given 13units PRBCs and 5 units of FFP at [**Hospital1 632**]
   prior to transfer, s/p 5 more units here yesterday.  CT without signs
   of active bleeding but hct continues not to bump appropriately.
   - s/p IR procedure yesterday-T9 intercostal artery cauterized.
   - tagged red cell scan-finding T9 bleed.
   - q6hr hcts
   - tx for hct <30, plts <100, INR >1.7
   .
   #r.chest/axillary hematoma-Reportedly CT scan showing large SQ/IM
   hematoma.
   -likely cause of anemia, seems stable on exam
   - pain control with oxycodone
   .
   #fall-appears to be mechanical in nature. Monitor on tele for now. Can
   consider echo.
   -PT consult.
   .
   #ESLD likely [**2-10**] ETOH cirrhosis. Apparently, pt with complete w/u at
   [**Hospital1 966**]. ESLD has been  c/b +ascites  ?encephalopathy, ?varices
   -has outpatient hepatologist, will defer long term management to that
   physician
   [**Name Initial (PRE) **] continue lactulose
   - ascites seems stable, if worsens, consider paracentesis
   .
   #ARF-Pt presented with Cr 3.7, currently 2.9. Unclear of baseline.
   Likely [**2-10**] hypovolemia, has improved with volume resuccitation.  Did
   get pretreated before dye load.
   -resolved.
   -trend Cr
   -avoid nephrotoxins.
   .
   #anasarca-likely secondary to extensive resuscitation with PRBCs and
   fluid. Also, likely that pt has hypoalbuminemia.
   -will continue to monitor, diuresis once HD stability ensured, no
   diuresis yet, will consider resuming once HCT stable.
   .
   #HTN-will hold off on home meds in setting of recent bleed.
   .
   FEN:reg diet, 2, 18's,.
   Prophylaxis: pneumoboots, PPI
   Access: peripherals, 2 18's.
   Code:  Full (discussed with patient), reports HCP is his sister.
   Communication: [**Name2 (NI) **]
   Disposition: ICU pending HCT stability.
   .
   ICU Care
   Nutrition:
   Glycemic Control:  PO diet
   Lines:
   18 Gauge - [**2149-8-6**] 04:10 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:likely call out to floor

2149-08-08 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yr old man with liver disease tx from OSH with hematoma, acute blood
   loss anemia and ARF
   24 Hour Events:
   transfused 3u prbc yest, hct 26.9 --> 31.2. Based on tagged rbc scan
   yest taken to IR last night, gel foam embolization to distal T9
   intercostal vessel done. Per IR this is a temporary measure, and foam
   will be reabsorbed within 24-48h.
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-8-8**] 08:00 AM
   Other medications:
   MVI, folate, thiamine, Colace, Protonix, Lactulose, prn oxycodone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-8**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 88 (81 - 97) bpm
   BP: 128/68(81) {114/56(68) - 156/75(94)} mmHg
   RR: 31 (22 - 48) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,862 mL
                                                                    490 mL
   PO:
                                                                    440 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                     10 mL
   Blood products:
                                                                  2,422 mL
   Total out:
                                                                  2,000 mL
                                                                    800 mL
   Urine:
                                                                  2,000 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,862 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L base, Diminished: R
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R back and flank hematoma stable
   Skin:  Not assessed, Jaundice, R back and flank ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   95 K/uL
   121 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.5 mEq/L
   25 mg/dL
   99 mEq/L
   136 mEq/L
   31.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2149-8-6**]  04:22 AM
                             [**2149-8-6**]  08:11 AM
                             [**2149-8-6**]  02:23 PM
                             [**2149-8-6**]  06:41 PM
                             [**2149-8-6**]  10:38 PM
                             [**2149-8-7**]  04:53 AM
                             [**2149-8-7**]  10:01 AM
                             [**2149-8-7**]  05:21 PM
                             [**2149-8-7**]  07:35 PM
                             [**2149-8-8**]  01:50 AM
   WBC
   5.1
   6.3
   7.6
   7.6
   7.2
   8.2
   8.2
   Hct
   22.5
   25.1
   25.9
   28.8
   29.8
   26.3
   29.7
   26.9
   25.8
   31.2
   Plt
   80
   84
   99
   91
   90
   84
   95
   Cr
   1.8
   1.4
   0.6
   0.6
   Glucose
   119
   108
   93
   121
   Other labs: PT / PTT / INR:19.5/76.9/1.8, ALT / AST:20/43, Alk Phos / T
   Bili:61/22.0, Differential-Neuts:71.0 %, Band:1.0 %, Lymph:12.0 %,
   Mono:11.0 %, Eos:3.0 %, Fibrinogen:183 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.1 g/dL, LDH:301 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR ([**8-8**])-
   Tagged RBC scan ([**8-7**])- T9 distal bleeding seen
   Assessment and Plan
   62 yr old man with EtOH liver disease and related coagulopathy, tx from
   OSH with hematoma following fall, acute blood loss anemia and ARF
   1. Profound Anemia due to acute blood loss- due to trauma and
   underlying coagulopathy from liver dz
   -s/p gel foam embolization of slowly bleeding T9 intercostal branch;
   per IR these will be reabsorbed in 24-48 hrs and we wiill need to
   monitor for rebleed during that window
   -[**Month (only) 11**] have component of ACD with his history of pancytopenia
   -now s/p 24 units blood tx over the past 8d
   -cont serial Hct and INR monitoring
   2. EtOH cirrhosis- OSH work up done [**1-17**]
   -s/p vit K
   -continue lactulose
   -holding further tx in the setting of acute bleed
   -has outpt followup w/ OSH already scheduled for long-term mgmt
   3. Basilar crackles on exam- likely atelectasis vs edema
   -incentive spirometry and OOB/ PT consult
   -diuresis if Hct stable
   Remainder of note as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2149-8-6**] 04:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if repeat Hct stable
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt independently, and was present with the ICU
   housestaff team for the relevant portions of services provided. I agree
   with Dr. [**Last Name (STitle) 6181**]
s note above, including assessment and plan. 62
   yo male with alcoholic cirrhosis/ascites/coagulopathy and panyctopenia,
   transferred from OSH with chest wall hematoma/acute blood loss anemia.
   Following tagged scan yesterday, he underwent embolization of distal t9
   intercostal. Late-morning Hct today unchanged. Appears appropriate for
   transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2149-8-8**] 15:54 ------